* File: G1_INV1_N1.pex.netlist
* Created: Thu Feb 10 22:02:06 2022
* Program "Calibre xRC"
* Version "v2021.2_37.20"
* 
.include "G1_INV1_N1.pex.netlist.pex"
.subckt G1_INV1_N1  VDD A VSS Z
* 
* Z	Z
* VSS	VSS
* A	A
* VDD	VDD
XI2.X0 N_Z_XI2.X0_D N_VSS_XI2.X0_PGD N_A_XI2.X0_CG N_VSS_XI2.X0_PGD
+ N_VDD_XI2.X0_S TIGFET1
XI1.X0 N_Z_XI2.X0_D N_VDD_XI1.X0_PGD N_A_XI1.X0_CG N_VDD_XI1.X0_PGD
+ N_VSS_XI1.X0_S TIGFET1
*
.include "G1_INV1_N1.pex.netlist.G1_INV1_N1.pxi"
*
.ends
*
*
